US04342771
5-Hydroxy-5-(1-methyl-3-indolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione
Alloxan hydrate (1.6 g., 0.01 mole) 1-methylindole (1.3 g., 0.01 mole) and ethanol (50 ml.) was combined and the mixture refluxed for 0.5 hour, then concentrated to half-volume, diluted with water and the resulting product recovered by filtration [2.7 g., Rf 0.5 (1:1 ethyl acetate:hexane/5% acetic acid)].

reactant | Alloxan hydrate | 0.01 mole, 1.6 g | O.N1C(=O)NC(=O)C(=O)C1=O
reactant | 1-methylindole | 0.01 mole, 1.3 g | CN1C=CC2=CC=CC=C12 | C9H9N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-Hydroxy-5-(1-methyl-3-indolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione | OC1(C(NC(NC1=O)=O)=O)C1=CN(C2=CC=CC=C12)C | C13H11N3O4
